US06921763B2
A mixture of 3-iodo-1-(1-methyl-3-azetanyl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine (0.17 g, 0.00052 mol), N-(5,7-dimethyl-1,3-benzoxazol-2-yl)-N-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]amine (0.23 g, 0.000624 mol), tetrakis(triphenylphosphine)-palladium (0.030 g, 0.000026 mol) and sodium carbonate (0.14 g, 0.0013 mol) in ethylene glycol dimethyl ether (20 mL) and water (15 mL) was heated at 80° C. for 16 hours under an atmosphere of nitrogen. The reaction was cooled to room temperature. The mixture was allowed to cool to ambient temperature, and the solvent was removed under the reduced pressure. The residue was partitioned between water and dichloromethane. The aqueous layer was extracted with dichloromethane (3×50 mL). The combined organic extracts were washed with water, saturated aqueous sodium bicarbonate solution, and brine, and dried over magnesium sulfate. The solvents were evaporated under the reduced pressure to leave a brownish solid which was purified by flash column chromatography on silica using 5%-50% methanol/dichloromethane as a mobile phase to give N2-{4-[4-amino-1-(1-methyl-3-azetanyl)-1H-pyrazolo[3,4-d]pyrimidin-3-yl]phenyl}-5,7-dimethyl-1,3-benzoxazol-2-amine (0.13 g, 0.0003 mol).

reactant | 3-iodo-1-(1-methyl-3-azetanyl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.00052 mol, 0.17 g | IC1=NN(C2=NC=NC(=C21)N)C2CN(C2)C | C9H11IN6
reactant | N-(5,7-dimethyl-1,3-benzoxazol-2-yl)-N-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]amine | 0.000624 mol, 0.23 g | CC=1C=C(C2=C(N=C(O2)NC2=CC=C(C=C2)B2OC(C(O2)(C)C)(C)C)C1)C | C21H25BN2O3
reactant | sodium carbonate | 0.0013 mol, 0.14 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethylene glycol dimethyl ether | 20 mL | COCCOC | C4H10O2
solvent | water | 15 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)-palladium | 0.000026 mol, 0.030 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | N2-{4-[4-amino-1-(1-methyl-3-azetanyl)-1H-pyrazolo[3,4-d]pyrimidin-3-yl]phenyl}-5,7-dimethyl-1,3-benzoxazol-2-amine | 0.0003 mol, 0.13 g | NC1=C2C(=NC=N1)N(N=C2C2=CC=C(C=C2)NC=2OC1=C(N2)C=C(C=C1C)C)C1CN(C1)C | C24H24N8O
